US05516774
4,10-Dihydro-5H-pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine
To a suspension of 7.0 g of 5-oxo-4,5-dihydropyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine in 25 ml of anhydrous tetrahydrofuran is added 9 ml of 10M borane-dimethylsulfide in tetrahydrofuran. The mixture is refluxed for 6 hours. The solution is cooled to room temperature and 25 ml of methanol added dropwise. The volatiles are removed under vacuum. To the residue is added 100 ml of 2N NaOH. The mixture is refluxed 5 hours and filtered. The solid is extracted with dichloromethane and the extract is washed with 2N citric acid, water and dried (Na2SO4). The solvent is removed to give a solid.

reactant | 5-oxo-4,5-dihydropyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine | 7.0 g | O=C1C=2N(C=C3C(N1)=CCS3)C=CC2 | C10H8N2OS
reactant | borane dimethylsulfide | 10M, 9 ml | B.CSC
reactant | methanol | 25 ml | CO | CH4O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4,10-Dihydro-5H-pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine | S1C=CC=2NCC=3N(CC21)C=CC3 | C10H10N2S
